US06344476B1
To a solution of 5-tert-butyl-3-nitropyrrole-2-carboxylic acid (2.01 g, 9.5 mmol) in a solution of anh. THF and anh. DMF (3:1, 100 mL) at 0° C. was added N-methylmorpholine (2.1 mL, 19 mmol, 2.0 equiv), followed by methylamine (2M in THF, 5.93 mL, 11.1 mmol, 1.25 equiv) and EDCI.HCl (2.85 g, 14.9 mmol, 1.57 equiv). The resulting mixture was allowed to warm to room temp. and stirred at that temp. overnight. The reaction mixture was diluted with H2O (100 mL), then made acidic with a 10% citric acid solution, and extracted with EtOAc (2×50 mL). The combined organic layers were washed with a saturated NaCl solution, dried (MgSO4), and concentrated in vacuo. The residue was purified by flash chromatography (15% CH2Cl2/hex) to give 2-(N-methylcarbamoyl)-5-tert-butyl-3-nitropyrrole (1.40 g, 66%) as a yellow solid: 1H NMR (DMSO-d6) δ1.29 (s, 9H), 2.76 (d, J=4.4 Hz, 3H), 6.36 (d, 2.9 Hz, 1H), 8.59-8.60 (m, 1H), 12.19 (br s, 1H).

reactant | 5-tert-butyl-3-nitropyrrole-2-carboxylic acid | 9.5 mmol, 2.01 g | C(C)(C)(C)C1=CC(=C(N1)C(=O)O)[N+](=O)[O-] | C9H12N2O4
reactant | N-methylmorpholine | 19 mmol, 2.1 mL, 2.0 equiv | CN1CCOCC1 | C5H11NO
reactant | methylamine | 11.1 mmol, 2M, 5.93 mL, 1.25 equiv | CN | CH5N
reactant | EDCI.HCl | 14.9 mmol, 2.85 g, 1.57 equiv | CCN=C=NCCCN(C)C.Cl
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | H2O | 100 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 2-(N-methylcarbamoyl)-5-tert-butyl-3-nitropyrrole | 1.40 g, 66% | CNC(=O)C=1NC(=CC1[N+](=O)[O-])C(C)(C)C | C10H15N3O3
